US07618990B2
Step 3: 3-[4-(4-Chlorophenyl)-1,3-thiazol-2-yl]-1,3-oxazolidin-2-one
1,1′-Carbonyldiimidazole (0.16 g, 1 mmol) was added to a solution of 2-{[4-(4-chlorophenyl)-1,3-thiazol-2-yl]amino}ethanol (0.15 g, 0.58 mmol), prepared in the previous step, in dry tetrahydrofuran (5 mL) at room temperature under nitrogen. After 72 h, the mixture was evaporated and the residue purified by silica gel column chromatography (ethyl acetate:hexanes, 1:3 as eluant) to afford the title compound (9.8 mg, 5%) as a white solid, MS (ES) m/z 281 [M+H]+. ANLC 96.4%@210 nm, 96.2%@230 nm; RT=8.0 min, the Xterra® MS C18m instrument, 3.5μ, 4.6×50 mm column, 0.8 mL/min, Grad: 5/95-95/5 (A) the PIC™ B6 reagent (5 mM Hex. Sulfonic Acid); (B) AcCN.

reactant | 1,1′-Carbonyldiimidazole | 1 mmol, 0.16 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-{[4-(4-chlorophenyl)-1,3-thiazol-2-yl]amino}ethanol | 0.58 mmol, 0.15 g | ClC1=CC=C(C=C1)C=1N=C(SC1)NCCO | C11H11ClN2OS
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[4-(4-Chlorophenyl)-1,3-thiazol-2-yl]-1,3-oxazolidin-2-one | 9.8 mg, 5% | ClC1=CC=C(C=C1)C=1N=C(SC1)N1C(OCC1)=O | C12H9ClN2O2S
